US04199568
(a) t-Butyloxycarbonyl-N-methyl-L-phenylalanine 2-methylthioethylamide
This was prepared by coupling of BOC Me Phe OH with 2-methylthioethylamine by the method of Example 1(b) The product was obtained as an oil. Rf1G=0.71 Rf32A=0.48

reactant | BOC Me Phe OH | CC(C)(C)OC(=O)N(C)[C@@H](CC1=CC=CC=C1)C(=O)O | C15H21NO4
reactant | 2-methylthioethylamine | CSCCN | C3H9NS
product | t-Butyloxycarbonyl-N-methyl-L-phenylalanine 2-methylthioethylamide | CSCCNC([C@@H](N(C)C(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C18H28N2O3S
